US07687664B2
175 mg of Methyl (3′-acetyl-4′-methoxybiphenyl-3-yl)acetate was dissolved in 3 m of ethanol, then 55 mg of hydroxylamine hydrochloride and 65 mg of sodium acetate were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated to give methyl [3′-(1-hydroxyiminoethyl)-4′-methoxybiphenyl-3-yl]acetate. This product was dissolved in 4 ml of ethanol, then 0.5 ml of 5N sodium hydroxide was added thereto, and the mixture was left at room temperature for 6 hours. The reaction mixture was neutralized with 1N hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated to give 166 mg of the title compound.

reactant | Methyl (3′-acetyl-4′-methoxybiphenyl-3-yl)acetate | 175 mg | C(C)(=O)C=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C18H18O4
reactant | hydroxylamine hydrochloride | 55 mg | Cl.NO
reactant | sodium acetate | 65 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [3′-(1-hydroxyiminoethyl)-4′-methoxybiphenyl-3-yl]acetate | ON=C(C)C=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C18H19NO4
